US06936602B1
In a mixture of water:ethanol:toluene (1:1:10, v/v, 18.0 ml) were dissolved 3,4-diethylphenyl borate (264 mg) and 7-bromo-1-methyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide (406 mg), and to the solution was added potassium carbonate (162 mg). The mixture was stirred under argon atmosphere at room temperature for 30 minutes, and to the mixture was added tetrakistriphenylphosphinepalladium (39 mg). The mixture was refluxed under argon atmosphere for 13 hours, diluted with ethyl acetate and washed with water and saturated brine, and the organic layer was dried with anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified with silica gel column chromatography (45 g, ethyl acetate:ethanol=20:1) and recrystallized from ethanol to give 7-(3,4-diethylphenyl)-1-methyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide (263 mg, 55%) as yellow crystals.

reactant | 3,4-diethylphenyl borate | 264 mg | B(OC1=CC(=C(C=C1)CC)CC)([O-])[O-]
reactant | 7-bromo-1-methyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 406 mg | BrC=1C=CC2=C(C=C(CCN2C)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C25H30BrN3O2
reactant | potassium carbonate | 162 mg | C([O-])([O-])=O.[K+].[K+]
solvent | water ethanol toluene | 18.0 ml | O.C(C)O.C1(=CC=CC=C1)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium | 39 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(3,4-diethylphenyl)-1-methyl-N-[4-[[N-methyl-N-(tetrahydro-2H-pyran-4-yl)amino]methyl]phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 263 mg, 55% | C(C)C=1C=C(C=CC1CC)C=1C=CC2=C(C=C(CCN2C)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C35H43N3O2
